US05171744
(RS) Methyl 2-(imidazol-1-yl)-2-phenylacetate
(RS) Methyl 2-bromo-2-phenylacetate (171.75 g), imidazole (102 g) and potassium carbonate (227.7 g) were stirred in acetone (1.75 liters for 60 hours. After settling, the supernatant was decanted off and the residue washed thoroughly with acetone. The acetone was evaporated under reduced pressure and the residue in ethyl acetate was washed with water and extracted twice with 2M hydrochloric acid. The combined acid extracts, after washing once with ether, were basified with solid potassium carbonate and extracted with toluene containing 10% ethyl acetate. The organic extracts were dried over magnesium sulphate and evaporated under reduced pressure to give the title compound as a yellow oil (132 g, 8i%).

reactant | (RS) Methyl 2-bromo-2-phenylacetate | 171.75 g | BrC(C(=O)OC)C1=CC=CC=C1 | C9H9BrO2
reactant | imidazole | 102 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 227.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (RS) Methyl 2-(imidazol-1-yl)-2-phenylacetate | 132 g | N1(C=NC=C1)C(C(=O)OC)C1=CC=CC=C1 | C12H12N2O2
